US06821980B1
4-(2,4-Diamino-pyrimidin-5-ylmethyl)-6-ethoxy-3′-fluoro-4′-morpholin-4-ylmethyl-biphenyl-2-ol (250 mg, 0.55 mmol) are [sic] suspended in 11 ml tetrahydrofuran, 0.5 g powdered molecular sieve are added and the mixture is stirred for 15 minutes at room temperature. Potassium tert-butylate (93 mg; 0.83 mmol) is added and the suspension is stirred again for 1 hour at room temperature. The beige suspension is then cooled to −20° C., and N,N-dimethylsulphamoyl chloride (158 mg; 1.1 mmol) is added. The reaction mixture is stirred for 4 hours at 0° C. and 2 hours at 10° C and then concentrated. The residue is chromatographed over silica gel with methylene chloride/MeOH (99:1). 151 mg (49%) dimethylsulphamic acid 4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-3′-fluoro-4′-morpholin-4-ylmethyl-biphenyl-2-yl ester are obtained as a light-yellow powder.

reactant | 4-(2,4-Diamino-pyrimidin-5-ylmethyl)-6-ethoxy-3′-fluoro-4′-morpholin-4-ylmethyl-biphenyl-2-ol | 0.55 mmol, 250 mg | NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(C1)OCC)C1=CC(=C(C=C1)CN1CCOCC1)F)O | C24H28FN5O3
reactant | Potassium tert-butylate | 0.83 mmol, 93 mg | CC(C)(C)[O-].[K+]
reactant | N,N-dimethylsulphamoyl chloride | 1.1 mmol, 158 mg | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
product | dimethylsulphamic acid 4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-3′-fluoro-4′-morpholin-4-ylmethyl-biphenyl-2-yl ester | 151 mg, 49% | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OCC)C1=CC(=C(C=C1)CN1CCOCC1)F)OS(N(C)C)(=O)=O | C26H33FN6O5S
